US06734179B2
N-[4-Methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-2-morpholin-4-yl-isonicotinamide
From 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-isonicotinamide with cesium carbonate and morpholine in NMP. ES-MS m/e (%): 455 (M+H+, 100).

reactant | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCCC3)OC)C=CN1 | C19H18BrN3O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-[4-Methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-2-morpholin-4-yl-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CCOCC2)=O)C2OCCCC2 | C23H26N4O4S
